US04395577
Preparation of N-(2-methyl-5-nitrobenzyl)benzamide
N-hydroxymethyl benzamide (7.55 g; 0.05 mol) is added to a solution of p-nitrotoluene (0.85 g; 0.05 mol) in concentrated sulfuric acid (60 ml). The reaction mixture is stirred for 63 hours at room temperature and then poured onto ice. A colorless precipitate is obtained which is isolated and recrystallized repeatedly from aqueous ethanol to give 4.0 g (i.e., 30% yield) of product. Increasing the reaction time to 7 days gives a 43% yield of product compound. This product has the following characteristics: melting point of 134° to 137° C.; i.r. 3300, 1635, 1655 cm-1 (sh); mass. spec. m/e 270.

reactant | N-hydroxymethyl benzamide | 0.05 mol, 7.55 g | OCNC(C1=CC=CC=C1)=O | C8H9NO2
reactant | p-nitrotoluene | 0.05 mol, 0.85 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-methyl-5-nitrobenzyl)benzamide | 43% yield | CC1=C(CNC(C2=CC=CC=C2)=O)C=C(C=C1)[N+](=O)[O-] | C15H14N2O3
